US05492841
Methadone (free base) was prepared for step B below by dissolving 10 grams of methadone hydrochloride in 100 mL of warm water at approximately 50° C. and crystallizing the free base out of solution by slowly adding 20 mL of a saturated aqueous potassium carbonate solution, pH 12.2 to the methadone hydrochloride solution with stirring. After crystallization was complete, the methadone crystals were filtered and redissolved in about 75 mL ethanol (ETOH). Following this the methadone was precipitated by the addition of 200 mL of water. The precipitate was filtered and dried in vacuo. The resulting yield of methadone was 8.79 g methadone or approximately 98%.

reactant | methadone hydrochloride | 10 grams | CCC(=O)C(CC(C)N(C)C)(C=1C=CC=CC1)C=2C=CC=CC2.Cl
solvent | water | 100 mL | O | H2O
product | Methadone | CCC(=O)C(CC(C)N(C)C)(C=1C=CC=CC1)C=2C=CC=CC2 | C21H27NO
